US04205166
To a suspension of 7-(2-methylthioacetamido)-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (4.05 g.) in water (20 ml.) was added 1 N aqueous sodium hydroxide solution (9 ml.) under ice cooling to dissolve. Sodium bisulfite (3.12 g.) and 39% formaldehyde (2.25 ml.) were added to water (7.5 ml.) and, the solution was warmed at 60° C. for 5 minutes and adjusted to the total amount of 50 ml. by water. Thus obtained solution (22.5 ml.) was added to the solution above prepared all at once. The mixed solution was stirred at room temperature for 2 hours, and an insoluble product was filtered off and then the filtrate was concentrated under reduced pressure. The residue was dissolved in water (10 ml.) and purified on a column of an adsorption resin (Amberlite XAD-2: made by Rohm & Haas Co.) to give di-sodium 7-(2-methylthioacetamido)-3-(5-sulfomethylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate (983 mg.) m.p. 145° to 150° C. (dec.).

reactant | 7-(2-methylthioacetamido)-3-(5-aminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.05 g | CCC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O | C14H17N5O3S4
reactant | sodium hydroxide | 1 N, 9 ml | [OH-].[Na+]
reactant | Sodium bisulfite | 3.12 g | S([O-])(O)=O.[Na+]
reactant | formaldehyde | 2.25 ml | C=O | CH2O
solvent | water | 20 ml | O | H2O
solvent | water | 7.5 ml | O | H2O
product | di-sodium 7-(2-methylthioacetamido)-3-(5-sulfomethylaminomethyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate | 983 mg | CCC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNCS(=O)(=O)O)C(=O)[O-])C1=O.[Na+].[Na+].CCC(=S)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNCS(=O)(=O)O)C(=O)[O-])C1=O | InChI=1S/2C15H19N5O6S5.2Na/c2*1-2-8(27)17-10-12(21)20-11(14(22)23)7(4-28-13(10)20)5-29-15-19-18-9(30-15)3-16-6-31(24,25)26;;/h2*10,13,16H,2-6H2,1H3,(H,17,27)(H,22,23)(H,24,25,26);;/q;;2*+1/p-2/t2*10?,13-;;/m11../s1
